US05891909
c) 3-[3-(2,5-Dichlorophenylsulfonyloxy)-5-methylphenoxy]propionaldehyde
Sulfur trioxide pyridine complex (720 mg, 4.5 mmol) was added to a solution of 3-[3-(2,5-dichlorophenylsulfonyloxy)-5-methylphenoxy]propanol (580 mg, 1.5 mmol), as prepared in the preceding step, N,N-diisopropylethylamine (0.7 mL, 5.5 mmol) and anhydrous dimethyl sulfoxide (0.3 mL, 4.2 mmol) in anhydrous dichloromethane (15 mL). The reaction mixture was stirred at ambient temperature for 1 hour and then quenched with 10% aqueous citric acid (50 mL). The mixture was extracted into dichloromethane (3×50 mL), and the dichloromethane solution was washed with 10% aqueous citric acid (40 mL) and dried over Na2SO4. After removing the solvent in vacuo, the residue was purified by flash column chromatography (dichloromethane) to give the title compound as a colorless oil (530 mg, 91%). 1H-NMR (300 MHz, CDCl3) δ 9.84 (s, 1H), 7.96 (s, 1H), 7.56 (s, 2H), 6.63 (s, 1 H), 6.58 (s, 1H), 6.50 (s, 1 H), 4.22 (t, J=6.0 Hz, 2H), 2.88 (t, J=6.1 Hz, 2 H), 2.27 (s, 3H).

reactant | 3-[3-(2,5-dichlorophenylsulfonyloxy)-5-methylphenoxy]propanol | 1.5 mmol, 580 mg | ClC1=C(C=C(C=C1)Cl)S(=O)(=O)OC=1C=C(OCCCO)C=C(C1)C | C16H16Cl2O5S
reactant | N,N-diisopropylethylamine | 5.5 mmol, 0.7 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | dimethyl sulfoxide | 4.2 mmol, 0.3 mL | CS(=O)C | C2H6OS
solvent | dichloromethane | 15 mL | ClCCl | CH2Cl2
product | 3-[3-(2,5-Dichlorophenylsulfonyloxy)-5-methylphenoxy]propionaldehyde | 530 mg, 91% | ClC1=C(C=C(C=C1)Cl)S(=O)(=O)OC=1C=C(OCCC=O)C=C(C1)C | C16H14Cl2O5S
